US04180669
2-(N-Isopropyl-1,2,3,6-tetrahydro-4-pyridyl)-5-isopropyl resorcinol hydrochloride
5-Isopropyl resorcinol (5.40 g), N-isopropyl-4-piperidone (5.00 g) and 12 ml acetic acid was treated with HCl as described in Example I to give 5.48 g product (50% yield); m.p. 247°-248°.

reactant | 5-Isopropyl resorcinol | 5.40 g | C(C)(C)C=1C=C(C=C(O)C1)O | C9H12O2
reactant | N-isopropyl-4-piperidone | 5.00 g | C(C)(C)N1CCC(CC1)=O | C8H15NO
reactant | HCl | Cl | ClH
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | 2-(N-Isopropyl-1,2,3,6-tetrahydro-4-pyridyl)-5-isopropyl resorcinol hydrochloride | 5.48 g, 50% yield | Cl.C(C)(C)N1CCC(=CC1)C1=C(O)C=C(C=C1O)C(C)C | InChI=1S/C17H25NO2.ClH/c1-11(2)14-9-15(19)17(16(20)10-14)13-5-7-18(8-6-13)12(3)4;/h5,9-12,19-20H,6-8H2,1-4H3;1H
